US08623859B2
5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}furan-3-carboxamide
5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (60 mg, 0.14 mmol)), EDCI (40 mg, 0.21 mmol) and HOAt (28 mg, 0.21 mmol) were dissolved in DMF (1 mL) and the mixture was stirred until acid activation was complete. 2-[4-(4,5-Dihydro-1H-imidazol-2-yl)phenyl]ethanamine.HCl (114 mg, 0.50 mmol) and DIPEA (0.174 mL, 1.00 mmol) were sonicated in 1 mL DMF for 5 min. The activated acid solution was added to 0.25 mL of amine solution and the reaction was stirred at ambient temperature for 3 h. The reaction was diluted with DCM (15 mL) and washed with saturated aqueous NH4Cl (2×3 mL). The organic layer was dried over MgSO4 and solvents were removed in vacuo. A portion of the crude product was purified using prep method C.

reactant | 5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.14 mmol, 60 mg | BrC1=CC(=C(C(=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)Cl | C13H10BrCl2NO5S
reactant | EDCI | 0.21 mmol, 40 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.21 mmol, 28 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 2-[4-(4,5-Dihydro-1H-imidazol-2-yl)phenyl]ethanamine | N1C(=NCC1)C1=CC=C(C=C1)CCN | C11H15N3
reactant | HCl | 0.50 mmol, 114 mg | Cl | ClH
reactant | DIPEA | 1.00 mmol, 0.174 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}furan-3-carboxamide | BrC1=CC(=C(C(=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)NCCC1=CC=C(C=C1)C=1NCCN1)Cl | C24H23BrCl2N4O4S
